US07977352B2
trans-2,5-Dimethylpiperazine (4.81 g, 42.1 mmol) and 1,2-difluoro-4-nitrobenzene (10.00 g, 62.9 mmol) are dissolved in 60 mL of dry acetonitrile and refluxed for 3 h, upon which a yellow precipitate forms on the bottom of the flask. The crude reaction mixture is concentrated in vacuo and the residue is chromatographed (silica gel, 10% MeOH in CH2Cl2) to give 4.32 g (17.0 mmol, 40%) of racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,5-dimethylpiperazine as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 1.01 (d, J=6.0 Hz, 3H), 1.09 (d, J=6.3 Hz, 3H), 2.45 (dd, J=11.5, 9.0 Hz, 1H), 2.72 (dd, J=12.1, 9.0 Hz, 1H), 3.05-3.12 (m, 1H), 3.15 (dd, J=12.1, 3.3 Hz, 1H), 3.26 (dd, 2H), 7.12 (t, J=8.5 Hz, 1H), 7.91 (dd, J=11.2, 2.4 Hz, 1H), 7.95-8.01 (m, 1H). LCMS-ESI (m/z): calcd for C12H16FN3O2, 253.1; [M+H]+ found, 254.4.

reactant | trans-2,5-Dimethylpiperazine | 42.1 mmol, 4.81 g | C[C@@H]1NC[C@H](NC1)C | C6H14N2
reactant | 1,2-difluoro-4-nitrobenzene | 62.9 mmol, 10.00 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,5-dimethylpiperazine | 17.0 mmol, 4.32 g, 40% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN[C@@H](C1)C)C | C12H16FN3O2
